US07163937B2
Preparation H11, Step 1: 10 g (0.068 mol) of 3-cyano benzoic acid was taken in 150 ml of dry dichloromethane and cooled to 0° C. Added 50 ml of oxalyl chloride drop wise followed by 5 drops of dry DMF. The reaction mixture was stirred at RT overnight. Dichloromethane was removed and dry methanol (50 ml) was added and stirred at rt for 2 h. Excess methanol was removed and the residue was dissolved in ethyl acetate. The ethyl acetate layer was washed with 10% of sodium bicarbonate, brine and concentrated to give methyl 3-cyanobenzoate (7 g) as a white solid.

reactant | 3-cyano benzoic acid | 0.068 mol, 10 g | C(#N)C=1C=C(C(=O)O)C=CC1 | C8H5NO2
reactant | oxalyl chloride | 50 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
catalyst | DMF | 5 drops | CN(C)C=O | C3H7NO
product | methyl 3-cyanobenzoate | 7 g | C(#N)C=1C=C(C(=O)OC)C=CC1 | C9H7NO2
